US07705042B2
a) 1-(5-Chloro-2-nitro-phenyl)-2,5-dimethyl-1H-pyrrole
To a solution of 5-chloro-2-nitrophenylamine (200 mg, 1.15 mmol) and hexane-2,5-dione (326 μL, 2.78 mmol) in THF (3 mL) was added 1 drop of conc H2SO4. Toluene (3 mL) was then added and the reaction was allowed to stir at 120° C. overnight. At this time the reaction was diluted with CH2Cl2 (50 mL), washed with H2O (2×25 mL), dried (Na2SO4) and concentrated in vacuo. Purification by preparative thin layer chromatography (50% EtOAc-hexane) afforded 73 mg (25%) of the title compound as a tan solid. 1H-NMR (CDCl3; 400 MHz): δ 7.96 (d, 1H, J=8.7 Hz), 7.59-7.54 (m, 1H), 7.39 (d, 1H, J=2.0 Hz), 5.92 (s, 2H), 1.97 (s, 6H);

reactant | 5-chloro-2-nitrophenylamine | 1.15 mmol, 200 mg | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | hexane-2,5-dione | 2.78 mmol, 326 μL | CC(CCC(C)=O)=O | C6H10O2
reactant | Toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-Chloro-2-nitro-phenyl)-2,5-dimethyl-1H-pyrrole | 73 mg, 25% | ClC=1C=CC(=C(C1)N1C(=CC=C1C)C)[N+](=O)[O-] | C12H11ClN2O2
